US08293768B2
Synthesis of 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(thiophen-2-ylmethyl)thiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with thiophen-2-ylmethanamine, the title compound was obtained as a colorless solid in 82% yield: mp 128-131° C.; 1H NMR (300 MHz, CDCl3) δ 7.30-7.20 (m, 3H), 7.06-6.93 (m, 4H), 6.08 (s, 1H), 6.01 (t, J=5.4 Hz, 1H), 4.73 (d, J=5.4 Hz, 2H), 4.42 (s, 2H), 3.82-3.74 (m, 2H), 3.47-3.39 (m, 2H), 2.49 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 163.1, 162.4 (d, JC-F=246.4 Hz), 155.8, 142.5, 141.4, 140.9, 131.8 (JC-F=3.1 Hz), 130.0 (JC-F=8.2 Hz), 126.9, 126.1, 125.2, 119.3, 115.7 (JC-F=21.5 Hz), 112.4, 47.4, 42.7, 41.4, 38.5, 16.1; MS (ES+) m/z 452.3 (M+23).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | thiophen-2-ylmethanamine | S1C(=CC=C1)CN | C5H7NS
product | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(thiophen-2-ylmethyl)thiophene-2-carboxamide | 82% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC=2SC=CC2)C)=O)C=C1 | C21H20FN3O2S2
